US07560558B2
Compound 276: 6,7-Dimethoxy-4-(2-methyl-quinolin-3-yloxy)-quinoline
4-Chloro-6,7-dimethoxyquinoline (240 mg), 3-hydroxy-2-methyl-quinoline-4-carboxylic acid (232 mg), and 4-dimethylaminopyridine (372 mg) were dissolved in o-dichlorobenzene (10 ml) to prepare a solution which was stirred at 160° C. overnight. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and was dried over anhydrous sodium sulfate, the solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-chloroform to give the title compound (37 mg, yield 11%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 240 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 3-hydroxy-2-methyl-quinoline-4-carboxylic acid | 232 mg | OC=1C(=NC2=CC=CC=C2C1C(=O)O)C | C11H9NO3
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 372 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 10 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 6,7-Dimethoxy-4-(2-methyl-quinolin-3-yloxy)-quinoline | 37 mg, yield 11% | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C(=NC2=CC=CC=C2C1)C | C21H18N2O3
